US07307094B2
2-Phenylbenzoxazole-7-carboxylic acid was prepared from 3-aminosalicyclic acid and benzoyl chloride using a procedure identical to that described in Step A of Example 1. This material was obtained in 86% yield as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 8.30 (dd, J=7.2, 2.1 Hz, 2H), 7.98 (dd, J=12.9, 7.8 Hz, 2H), 7.60(m, 3H), 7.48 (t, J=7.8 Hz, 1H); MS (APCI) m/z 240 [M+H]+

reactant | 3-aminosalicyclic acid | NC1=C(C(C(=O)O)=CC=C1)O | C7H7NO3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-Phenylbenzoxazole-7-carboxylic acid | 86% yield | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H9NO3
